US05824824
A solution of 17.8 g (0.052 mol) of bis(4-tertbutoxyphenyl) sulfoxide in 52 g of THF was cooled on an ice bath. To the solution, 5.3 g (0.052 mol) of triethylamine was added and 14.1 g (0.13 mol) of trimethylsilyl chloride was dropwised at 0° to 10° C. Stirring was continued at 0 to 10° C. for 30 minutes. To this solution, a Grignard reagent which was conventionally prepared from 24.0 g (0.13 mol) of 4-tert-butoxychlorobenzene, 3.2 g (0.13 mol) of magnesium, and 40 g of THF was dropwised at 0° to 10° C. Stirring was continued at 0° to 10° C. for 30 minutes. 300 g of 20% ammonium chloride aqueous solution was added to the reaction mixture. To the organic layer was added 500 g of chloroform. The organic layer was washed twice with 200 g of water and the solvent was evaporated and residue was purifie by column chromatography (silica gel, eluent: chloroform/methanol), isolating 9.3 g (yield 35%) of tris(4-tert-butoxyphenyl)sulfonium chloride with 99% purity.

reactant | bis(4-tertbutoxyphenyl) sulfoxide | 0.052 mol, 17.8 g | C(C)(C)(C)OC1=CC=C(C=C1)S(=O)C1=CC=C(C=C1)OC(C)(C)C | C20H26O3S
reactant | triethylamine | 0.052 mol, 5.3 g | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 0.13 mol, 14.1 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | 4-tert-butoxychlorobenzene | 0.13 mol, 24.0 g | C(C)(C)(C)OC1=CC=C(C=C1)Cl | C10H13ClO
reactant | magnesium | 0.13 mol, 3.2 g | [Mg] | Mg
reactant | ammonium chloride | 300 g | [Cl-].[NH4+]
solvent | THF | 52 g | C1CCOC1 | C4H8O
solvent | THF | 40 g | C1CCOC1 | C4H8O
solvent | chloroform | 500 g | C(Cl)(Cl)Cl | CHCl3
product | tris(4-tert-butoxyphenyl)sulfonium chloride | 9.3 g, yield 35% | [Cl-].C(C)(C)(C)OC1=CC=C(C=C1)[S+](C1=CC=C(C=C1)OC(C)(C)C)C1=CC=C(C=C1)OC(C)(C)C | InChI=1S/C30H39O3S.ClH/c1-28(2,3)31-22-10-16-25(17-11-22)34(26-18-12-23(13-19-26)32-29(4,5)6)27-20-14-24(15-21-27)33-30(7,8)9;/h10-21H,1-9H3;1H/q+1;/p-1
